US07393965B2
(i) Synthesis of 6,6-dibenzyl fulvene
Into a 100 ml Kjeldahl flask purged thoroughly with nitrogen, equipped with a dropping funnel and a magnetic stirrer, were introduced cyclopentadiene 2.40 g (36.2 mmol) which had been subjected to cracking, and dehydrated tetrahydrofuran 50 ml. With cooling in an ice bath, 1.57 mol/L n-hexane solution of n-butyllithium, 24.3 ml (38.1 mmol), was dropwise added to the solution by means of the dropping funnel. The resulting slurry was stirred all night at room temperature. With the flask cooled in an ice bath, a solution of dibenzyl ketone 9.16 g (43.6 mmol) in 20 ml of dehydrated tetrahydrofuran, was dropwise added into the flask by means of the dropping funnel. The resulting slurry was stirred all night at room temperature. After addition of a saturated aqueous solution of ammonium chloride 50 ml and ether 50 ml, the organic phase was recovered with a separatory funnel. The water phase was extracted with ether 30 ml. The organic phase was washed twice with water 50 ml and once with a saturated salt solution 50 ml, and dried over magnesium sulfate. The solution was filtered to remove the magnesium sulfate, and the solvent of the filtrate was distilled away to obtain a solid. The residue was subjected to column chromatography to obtain an objective brown oil in 1.10 g (12%) yield. The 1H NMR spectrum and the FD-MS spectrum as measured with respect to the brown oil are given below:

reactant | cyclopentadiene | 36.2 mmol, 2.40 g | C1=CC=CC1 | C5H6
reactant | n-butyllithium | C(CCC)[Li]
reactant | dibenzyl ketone | 43.6 mmol, 9.16 g | C(C1=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C15H14O
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | n-hexane | 1.57 mol/L | CCCCCC | C6H14
product | 6,6-dibenzyl fulvene | C(C1=CC=CC=C1)C(=C1C=CC=C1)CC1=CC=CC=C1 | C20H18
